US06624158B2
3-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4H-1,2,4-triazole
A solution of 3-[(3aR,4R,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4-benzyl-4H-1,2,4-triazole (Preparation 19) (1.5 g, 4.5 mmol) in ethyl acetate (45 ml) and ethanol (5 ml) was hydrogenated over palladium black (0.4 g) at 2758 kPa (400 p.s.i) and 100 □C. for 24 hours. Additional palladium black (0.2 g) was then added and hydrogenation was continued for a further 72 hours. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure to give the title compound (1.0 g).

reactant | 3-[(3aR,4R,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4-benzyl-4H-1,2,4-triazole | 4.5 mmol, 1.5 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C2=NN=CN2CC2=CC=CC=C2 | C17H21N3O4
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium black | 0.4 g | [Pd] | Pd
catalyst | palladium black | 0.2 g | [Pd] | Pd
product | 3-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-4H-1,2,4-triazole | 1.0 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C2=NN=CN2 | C10H15N3O4
